* Z:\mnt\design.r\spice\examples\2953-1.asc
V1 IN 0 8.4
XU1 0 N003 N010 N008 N006 IN N002 N004 N007 N005 N001 N009 LTC2953-1
R1 IN N002 2150K
R2 N002 N004 23.2K
R3 N004 0 196K
XU2 OUT OUT MP_01 0 N001 MP_02 MP_03 IN LT3010-5
C1 OUT 0 1µ
R4 IN N010 100K
V2 N011 0 PWL(0 0 15.999 0 16 5 17 5 17.001 0)
M§Q1 N010 N011 0 0 2N7002
R5 IN N001 100K
R6 N003 0 100K
R7 OUT N003 499K
R8 OUT N005 100K
R9 OUT N007 100K
R10 OUT N009 100K
C2 N008 0 1µ
V3 N006 0 PWL(0 0 2.8 0 2.801 3.3 3 3.3 3.001 0 4 0 4.001 3.3 6 3.3 6.001 0 6.499 0 6.5 3.3 9 3.3 9.001 0 12.999 0 13 3.3 14 3.3 14.001 0 14.499 0 14.5 3.3)
Rload OUT 0 100
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 20 startup
.lib LT3010.lib
.lib LTC2953-1.sub
.backanno
.end
